US05250690
2-(4-((6-Chloro-2-quinoxalinyl)oxy)phenoxy) -N-(4-(trifluoromethoxy)phenyl)propanamide
A solution of 6.5 mmol of 2-(4-((6-chloro-2-quinoxalinyl)oxy)phenoxy)propionyl chloride in 10 ml of methylene chloride was added dropwise to an ice-cooled solution of 1.53 g (7.2 mmol) of 4-(trifluoromethoxy)aniline hydrochloride and 1.58 g (15.6 mmol) of triethylamine in 40 ml of methylene chloride. The reaction mixture was stirred at room temperature overnight and then poured into a dilute aqueous HCl solution. The organic layer was separated, washed with a saturated aqueous NaHCO3 solution, dried over MgSO4 and evaporated to dryness. The residual solid was recrystallized from methanol to give 2.00 g (61 percent of theoretical) of the above-named product as colorless crystals which melted at 156.5°-158° C. The structure of the product was confirmed by its IR and NMR spectrum. (Compound 6)

reactant | 2-(4-((6-chloro-2-quinoxalinyl)oxy)phenoxy)propionyl chloride | 6.5 mmol | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C17H12Cl2N2O3
reactant | 4-(trifluoromethoxy)aniline hydrochloride | 7.2 mmol, 1.53 g | Cl.FC(OC1=CC=C(N)C=C1)(F)F
reactant | triethylamine | 15.6 mmol, 1.58 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-((6-Chloro-2-quinoxalinyl)oxy)phenoxy) -N-(4-(trifluoromethoxy)phenyl)propanamide | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1 | C24H17ClF3N3O4
